US08497281B2
(cis-2,3,4,4a,9,9a-Hexahydro-indeno[2,1-b]pyridin-1-yl)-(1-methyl-1H-indol-3-yl)-methanone
The title compound is prepared from 1-methyl-1H-indole-3-carboxylic acid and cis-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine following a procedure analogous to that described in Example 1 [2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate is used]. Yield: 26% of theory; LC (method 4): tR=2.02 min; Mass spectrum (ESI+): m/z=331 [M+H]+.

reactant | 1-methyl-1H-indole-3-carboxylic acid | CN1C=C(C2=CC=CC=C12)C(=O)O | C10H9NO2
reactant | cis-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine | N1[C@@H]2[C@H](CCC1)C=1C=CC=CC1C2 | C12H15N
reactant | 2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
product | (cis-2,3,4,4a,9,9a-Hexahydro-indeno[2,1-b]pyridin-1-yl)-(1-methyl-1H-indol-3-yl)-methanone | Yield: 26% | N1([C@@H]2[C@H](CCC1)C=1C=CC=CC1C2)C(=O)C2=CN(C1=CC=CC=C21)C | C22H22N2O
